US03970683
Typically, 1-octyn-3-ol is allowed to react with dihydropyran in the presence of a catalytic amount of p-toluenesulfonic acid to form the 3-pyranyl ether. 3-(tetrahydropyran-2-yl)oxy-1-octyne. That material is treated with diisobutyl aluminum hydride, then with iodine, to yield the corresponding iodo-octene, 3-(tetrahydropyran- 2-yl)oxy-1-iodo-1-octene. Magnesium metal, activated with mercuric chloride, is added to the iodo-octene and that addition is followed by the addition of cuprous iodide to yield 3-(tetrahydropyran-2-yl)oxy-trans-1-octenyl copper.

reactant | 1-octyn-3-ol | C#CC(CCCCC)O | C8H14O
reactant | dihydropyran | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-pyranyl ether | O1CC(=CC=C1)OC=1COC=CC1 | C10H10O3
